US06441006B2
3-(4-Piperidinyloxy)pyridine
A cold (0-5° C.), stirring solution of 3-(N-(tert-butoxycarbonyl)-4-piperidinyloxy)pyridine (500 mg, 1.796 mmol) in anisole (8 mL) was treated with trifluoroacetic acid (8 mL, 11.84 g, 103.8 mmol). The resulting solution was stirred for 30 min. The volatiles were removed on a rotary evaporator, and the residue was neutralized and basified to pH 9 with solid K2CO3 and water. The mixture was extracted with chloroform (4×20 mL). The combined chloroform extracts were dried (K2CO3), filtered and concentrated. The crude product was purified by column chromatography over silica gel, eluting with chloroform-acetone (9:1, v/v). Selected fractions were collected and concentrated to give 260 mg (81.2%) of an off-white, viscous liquid.

reactant | 3-(N-(tert-butoxycarbonyl)-4-piperidinyloxy)pyridine | 1.796 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=NC=CC1 | C15H22N2O3
reactant | trifluoroacetic acid | 103.8 mmol, 8 mL, 11.84 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 8 mL | C1(=CC=CC=C1)OC | C7H8O
product | 3-(4-Piperidinyloxy)pyridine | N1CCC(CC1)OC=1C=NC=CC1 | C10H14N2O
